* source GNP-3 AKTIV RC-FILTER HP
C_C8         N24365 N24379  10n  
E_U8         N21581 0 VALUE {LIMIT(V(0,N21567)*1E6,-15V,+15V)} _U8 0 N21567 1G

R_R7         N24281 N24295  10k  
E_U9         N22936 0 VALUE {LIMIT(V(0,N22882)*1E6,-15V,+15V)} _U9 0 N22882 1G

R_Ra1         N21411 N21371  3.32k  
R_R8         N24311 N24365  10k  
E_U10         N22994 0 VALUE {LIMIT(V(0,N22978)*1E6,-15V,+15V)} _U10 0 N22978
+  1G

R_Rb1         N21371 N21425  3.32k  
R_Rf3         N24265 N24379  1.69k  
E_U11         N23024 0 VALUE {LIMIT(V(0,N23008)*1E6,-15V,+15V)} _U11 0 N23008
+  1G

R_Rd1         N21467 N21483  3.32k  
V_V4         N24209 0 DC 0Vdc AC 1Vac 
C_C3         N21497 N21513  10n  
E_U12         N23092 0 VALUE {LIMIT(V(0,N23078)*1E6,-15V,+15V)} _U12 0 N23078
+  1G

R_Re3         N24169 N24311  3.09k  
R_Rc1         N21425 N21467  3.32k  
R_Ra2         N22922 N22882  3.32k  
C_C4         N21567 N21581  10n  
E_U13         N24223 0 VALUE {LIMIT(V(0,N24169)*1E6,-15V,+15V)} _U13 0 N24169
+  1G

R_R3         N21483 N21497  10k  
R_Rb2         N22882 N22936  3.32k  
E_U14         N24281 0 VALUE {LIMIT(V(0,N24265)*1E6,-15V,+15V)} _U14 0 N24265
+  1G

R_R4         N21513 N21567  10k  
R_Rd2         N22978 N22994  3.32k  
E_U15         N24311 0 VALUE {LIMIT(V(0,N24295)*1E6,-15V,+15V)} _U15 0 N24295
+  1G

C_C5         N23008 N23024  10n  
R_Rf1         N21467 N21581  5.36k  
R_Rc2         N22936 N22978  3.32k  
E_U16         N24379 0 VALUE {LIMIT(V(0,N24365)*1E6,-15V,+15V)} _U16 0 N24365
+  1G

C_C6         N23078 N23092  10n  
V_V2         N21411 0 DC 0Vdc AC 1Vac 
R_Re1         N21371 N21513  2.43k  
R_R5         N22994 N23008  10k  
R_Ra3         N24209 N24169  3.32k  
E_U5         N21425 0 VALUE {LIMIT(V(0,N21371)*1E6,-15V,+15V)} _U5 0 N21371 1G

R_R6         N23024 N23078  10k  
R_Rb3         N24169 N24223  3.32k  
E_U6         N21483 0 VALUE {LIMIT(V(0,N21467)*1E6,-15V,+15V)} _U6 0 N21467 1G

R_Rf2         N22978 N23092  3.32k  
R_Rd3         N24265 N24281  3.32k  
C_C7         N24295 N24311  10n  
E_U7         N21513 0 VALUE {LIMIT(V(0,N21497)*1E6,-15V,+15V)} _U7 0 N21497 1G

V_V3         N22922 0 DC 0Vdc AC 1Vac 
R_Rc3         N24223 N24265  3.32k  
R_Re2         N22882 N23024  2.32k  
