* Z:\home\uni\Github_Projects\GNP3\LTspice\Schaltung_Sprungantwort.asc
V1 N005 0 PULSE(0 0.5 0.1m 0 0 1 1 1) AC 1.
XU1 0 N001 N010 N011 N006 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 0 N003 N010 N011 N007 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU3 0 N008 N010 N011 N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU4 0 N009 N010 N011 N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
Ra N001 N005 3.32k
Rb N006 N001 3.32k
Rc N003 N006 3.32k
Rd N007 N003 1.69k
R1 N008 N007 10k
C1 N002 N008 10n
R2 N009 N002 10k
C2 N004 N009 10n
Rf N004 N003 3.32k
Re N002 N001 3.09k
Rmess N004 0 10meg
V2 N010 0 15
V3 N011 0 -15
.tran 4m
.lib UniversalOpamps2.sub
.backanno
.end
