* source GNP-3 AKTIV RC-FILTER BP
R_Rd3         N26217 N26233  3.32k  
C_C7         N26247 N26263  10n  
R_Rc3         N26175 N26217  16.5k  
C_C8         N26317 N26331  10n  
R_R7         N26233 N26247  10k  
R_R8         N26263 N26317  10k  
R_Rf3         N26217 N26331  1.69k  
V_V4         N26161 0 DC 0Vdc AC 1Vac 
R_Re3         N26121 N26263  3.09k  
E_U13         N26175 0 VALUE {LIMIT(V(0,N26121)*1E6,-15V,+15V)} _U13 0 N26121
+  1G

E_U14         N26233 0 VALUE {LIMIT(V(0,N26217)*1E6,-15V,+15V)} _U14 0 N26217
+  1G

E_U15         N26263 0 VALUE {LIMIT(V(0,N26247)*1E6,-15V,+15V)} _U15 0 N26247
+  1G

E_U16         N26331 0 VALUE {LIMIT(V(0,N26317)*1E6,-15V,+15V)} _U16 0 N26317
+  1G

R_Ra3         N26161 N26121  3.32k  
R_Rb3         N26121 N26175  3.32k  
