* source GNP-3 AKTIV RC-FILTER BS
C_C7         N25271 N25287  10n  
R_Rc3         N25199 N25241  16.5k  
C_C8         N25341 N25355  10n  
R_R7         N25257 N25271  10k  
R_R8         N25287 N25341  10k  
R_Rf3         N25241 N25355  1.69k  
V_V4         N25185 0 DC 0Vdc AC 1Vac 
R_Re3         N25145 N25287  3.09k  
E_U13         N25199 0 VALUE {LIMIT(V(0,N25145)*1E6,-15V,+15V)} _U13 0 N25145
+  1G

E_U14         N25257 0 VALUE {LIMIT(V(0,N25241)*1E6,-15V,+15V)} _U14 0 N25241
+  1G

E_U15         N25287 0 VALUE {LIMIT(V(0,N25271)*1E6,-15V,+15V)} _U15 0 N25271
+  1G

E_U16         N25355 0 VALUE {LIMIT(V(0,N25341)*1E6,-15V,+15V)} _U16 0 N25341
+  1G

R_Ra3         N25185 N25145  3.32k  
R_Rb3         N25145 N25199  3.32k  
R_Rd3         N25241 N25257  3.32k  
