* source GNP-3 AKTIV RC-FILTER
R_R1         N00784 N00876  10k  
R_R2         N01067 N01443  10k  
V_V1         N00330 0 DC 0Vdc AC 1Vac 
R_Rf         N00638 N01618  3.32k  
C_C1         N00876 N01067  10n  
R_Re         N00318 N01067  2.43k  
E_U1         N00358 0 VALUE {LIMIT(V(0,N00318)*1E6,-15V,+15V)} _U1 0 N00318 1G

C_C2         N01443 N01618  10n  
E_U2         N00784 0 VALUE {LIMIT(V(0,N00638)*1E6,-15V,+15V)} _U2 0 N00638 1G

E_U3         N01067 0 VALUE {LIMIT(V(0,N00876)*1E6,-15V,+15V)} _U3 0 N00876 1G

E_U4         N01618 0 VALUE {LIMIT(V(0,N01443)*1E6,-15V,+15V)} _U4 0 N01443 1G

R_Ra         N00330 N00318  3.32k  
R_Rb         N00318 N00358  3.32k  
R_Rd         N00638 N00784  5.36k  
R_Rc         N00358 N00638  3.32k  
